US04814332
Gaseous dimethylamine is passed through a mixture of 2.47 g of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2 (methylthio)imidazolium tetrafluoroborate and 30 ml of absolute dimethylformamide until a weight increase of 0.4 g (corresponding to 1.8 equivalents) is achieved and the mixture is subsequently stirred at room temperature overnight. From the resulting reddish solution, there is obtained by the addition of diethyl ether a crystalline precipitate which is removed by filtration under suction and washed twice with water and ethanol each time. After re-precipitation from dimethylformamide/diethyl ether, there is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(dimethylamino)imidazolium tetrafluoroborate as a yellow solid of melting point 248°-252° (decomposition).

reactant | dimethylamine | CNC | C2H7N
reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2 (methylthio)imidazolium tetrafluoroborate | 2.47 g | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)SC)C=C1)C
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(dimethylamino)imidazolium tetrafluoroborate | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)N(C)C)C=C1)C | InChI=1S/C23H30N7.BF4/c1-26(2)21-11-7-19(8-12-21)17-24-29-15-16-30(23(29)28(5)6)25-18-20-9-13-22(14-10-20)27(3)4;2-1(3,4)5/h7-18H,1-6H3;/q+1;-1
